US07576165B2
Synthesis of 2-(4-(2-(trimethoxysilyl)ethyl)benzylthio)pyrimidine (Scheme 32)
10 mmole of 2-mercaptopyrimidine was dissolved in 20 ml ethanol, then 10 mmole EtOK was added, and stirred for 5 minutes. 10 mmole of ((chloromethyl)phenylethyl)trimethoxysilane was added to the solution, and stirred for 6 hours. The white precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The obtained viscous liquid was separated with a Si gel column (solvents: 1 ethylacetate/3 hexane). 1H NMR (CD3Cl): δ(ppm) 8.50 (2H, m, Pyr.-H), 7.25 (4H, m, Ar—H), 6.95 (1H, m, Pyr.-H), 4.38 (2H, s —CH2—), 3.54 (9H, s, —CH3), 2.70 (2H, m, —CH2—), 0.99 (2H, m, —CH2—). Yield: 73%.

reactant | 2-mercaptopyrimidine | 10 mmole | SC1=NC=CC=N1 | C4H4N2S
reactant | EtOK | 10 mmole | C(C)O[K]
reactant | ((chloromethyl)phenylethyl)trimethoxysilane | 10 mmole | ClCC(C[Si](OC)(OC)OC)C1=CC=CC=C1 | C12H19ClO3Si
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-(2-(trimethoxysilyl)ethyl)benzylthio)pyrimidine | Yield: 73% | CO[Si](CCC1=CC=C(CSC2=NC=CC=N2)C=C1)(OC)OC | C16H22N2O3SSi
